US08492388B2
To a stirred solution of 2-(6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione (5.22 g, 11 mmol) in dry THF (130 mL) was added hydrazine hydrate (2.63 mL, 54 mmol). The reaction mixture was stirred at room temperature for 6 h, then insolubles were removed by filtration and washed with ethyl acetate. The filtrates were combined and concentrated in vacuo. The residue was dissolved in ethyl acetate (250 mL), washed with water (2×100 mL), and the organic layer was dried over MgSO4 and concentrated in vacuo to afford 6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}pyridin-2-amine as an orange solid [3.56 g, yield 89%; HPLC/MS:m/z=353 (M+H); log P(HCOOH)=1.19].

reactant | 2-(6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione | 11 mmol, 5.22 g | CN(C=1C=C(C=CC1)C(C1=NN=NN1C)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O)C | C25H22N8O3
reactant | hydrazine hydrate | 54 mmol, 2.63 mL | O.NN
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}pyridin-2-amine | yield 89% | CN(C=1C=C(C=CC1)C(C1=NN=NN1C)=NOCC1=CC=CC(=N1)N)C | C17H20N8O
